Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ laparoscopic  appendectomy

 
History of Present Illness:
Mr. ___ is a pleasant ___ male with a history of HTN who
presents with 1 day of acute RLQ abdominal pain. Starting at
~3:30pm yesterday, the patient developed a constant, sharp, ___
pain in his epigastrum and RLQ. The pain localized to just the
RLQ later in the evening. He notes that the pain was accompanied
by nausea, 1 episode of small volume watery emesis, subjective
fever,  and a mild headache. He tolerated a regular meal w/o
issue 3 hours after the pain began. He denies any changes in his
BMs; his last BM was two days ago, and he is passing flatus. 

 
Past Medical History:
HTN, Depression 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PE: upon admission, ___

Vitals: T 101.9, HR 99, BP 119/60, RR 18, O2 96% RA
Gen: AAO, NAD, appears stated age, sleeping
HEENT: no scleral icterus, MMM
Neck: Trachea midline, supple, no appreciable LAD
___: RRR
Pulm: breathing comfortably, symmetric chest movement
Abd: Soft, ND, tender to light and deep palpation in RLQ, no
rebound, no guarding
Ext: No edema
Vascular: palpable DP and radial pulses

 
Pertinent Results:
___ 10:30AM BLOOD WBC-17.2* RBC-4.33* Hgb-13.5* Hct-43.0 
MCV-99* MCH-31.2 MCHC-31.4* RDW-13.0 RDWSD-47.8* Plt ___
___ 08:08PM BLOOD WBC-23.3* RBC-4.66 Hgb-14.6 Hct-47.1 
MCV-101* MCH-31.3 MCHC-31.0* RDW-12.8 RDWSD-47.8* Plt ___
___ 08:08PM BLOOD Neuts-83.7* Lymphs-9.4* Monos-4.9* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-19.49* AbsLymp-2.20 
AbsMono-1.15* AbsEos-0.20 AbsBaso-0.09*
___ 10:30AM BLOOD Plt ___
___ 08:08PM BLOOD Glucose-137* UreaN-18 Creat-0.9 Na-139 
K-4.5 Cl-104 HCO3-22 AnGap-13

___:  CT abd and pelvis:

Acute appendicitis with surrounding stranding and trace fluid 
along the 
para-colic.  No rim-enhancing or drainable collection.  No free 
air. 

 
Brief Hospital Course:
___ year old male who was admitted to the hospital with abdominal 
pain which started in the epigastrium and moved to the RLQ.  
Upon admission, the patient was made NPO, underwent imaging, and 
started on intravenous fluids. The patient was reported to have 
an elevated white blood cell count.  Cat scan imaging showed an 
edematous, dilated appendix with surrounding fat stranding.  
Based on these findings, the patient was taken to the operating 
room where he underwent a laparoscopic appendectomy.  Operative 
findings were notable for a gangrenous appendix.   The operative 
course was stable with minimal blood loss. The patient was 
extubated after the procedure and monitored in the recovery 
room.  

The post-operative course was stable. The patient's surgical 
pain was controlled with oral analgesia.  He resumed a regular 
diet and was voiding without difficulty.  Because of the 
operative findings, he was discharged on a 4 day course of 
ciprofloxacin and flagyl.  The patient was discharged on POD #1. 
 Discharge instructions were reviewed and questions answered.  A 
follow-up appointment was made in the acute care clinic.  
 
Medications on Admission:
Lisinopril  
 Wellbutrin 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ciprofloxacin HCl 500 mg PO BID Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*8 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
please take with food  
4.  MetroNIDAZOLE 500 mg PO TID Duration: 4 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*8 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain. A cat 
scan was done which showed acute appendicitis.  You were taken 
to the operating room to have your appendix removed.  You are 
being discharged home with the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

If you have questions or concerns please call the acute care 
clinic at ___.  

 
Followup Instructions:
___